US06030969
Triethylamine (19.6 g, 194 mmol) was added dropwise to a suspension of N,O-dimethylhydroxylamine hydrochloride (6.93 g, 71 mmol) in anhydrous CH2Cl2 at 0° C. Heptanoylchloride (9.60 g, 65 mmol) was then added dropwise and the reaction was stirred 1 hour. The crude product mixture was poured into water and the separated aqueous phase was extracted with CH2Cl2. The combined organic layers was washed with aq. HCl, sat. NaHCO3, brine, dried (Na2SO4), and concentrated in vacuo to give 10 g (89%) N-methyl-N-methoxyheptanamide as a yellow oil.

reactant | Triethylamine | 194 mmol, 19.6 g | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxylamine hydrochloride | 71 mmol, 6.93 g | Cl.CNOC
reactant | Heptanoylchloride | 65 mmol, 9.60 g | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-methyl-N-methoxyheptanamide | 10 g, 89% | CN(C(CCCCCC)=O)OC | C9H19NO2
